US07897616B2
N-Hexyl-3-methyl-2-oxo-2,3-dihydroimidazo[4,5-b]pyridine-1-carboxamide
In 2.5 ml of DMF, N-hexyl-2-oxo-2,3-dihydroimidazo[4,5-b]pyridine-1-carboxamide (65 mg, 0.248 mmol), iodomethane (70 mg, 0.5 mmol) and cesium carbonate (80 mg, 0.25 mmol) were stirred at RT for 5 h. After concentration, the mixture was admixed with water and ethyl acetate, and the organic phase was removed, concentrated and purified by means of preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 16 mg (23%), M+H+: 277.17.

reactant | N-hexyl-2-oxo-2,3-dihydroimidazo[4,5-b]pyridine-1-carboxamide | 0.248 mmol, 65 mg | C(CCCCC)NC(=O)N1C(NC2=NC=CC=C21)=O | C13H18N4O2
reactant | iodomethane | 0.5 mmol, 70 mg | IC | CH3I
reactant | cesium carbonate | 0.25 mmol, 80 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | N-Hexyl-3-methyl-2-oxo-2,3-dihydroimidazo[4,5-b]pyridine-1-carboxamide | C(CCCCC)NC(=O)N1C(N(C2=NC=CC=C21)C)=O | C14H20N4O2
